US05190934
A solution of 0.642 g of ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(n-butyl)phosphinate in 10 ml of anhydrous dichloromethane under an inert atmosphere is treated with 1.53 g of trimethylbromosilane. After stirring for 7 hours at room temperature the volatile material is removed in vacuo to afford a pale yellow oil. This oil is dissolved in methanol containing 1% of water, and the clear pale yellow solution is stirred overnight at room temperature. The solvent is removed in vacuo to afford 3-amino-2-oxo-propyl(n-butyl)phosphinic acid hydrobromide, m.p. 135°-138°. Suspension in ethanol and treatment with propylene oxide affords 3-amino-2-oxo-propyl(n-butyl)phosphinic acid of m.p. 128°-130°.

reactant | ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(n-butyl)phosphinate | 0.642 g | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)CCCC)=O | C14H28NO5P
reactant | trimethylbromosilane | 1.53 g | C[Si](Br)(C)C | C3H9BrSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-amino-2-oxo-propyl(n-butyl)phosphinic acid hydrobromide | Br.NCC(CP(O)(=O)CCCC)=O | InChI=1S/C7H16NO3P.BrH/c1-2-3-4-12(10,11)6-7(9)5-8;/h2-6,8H2,1H3,(H,10,11);1H
